US07407961B2
3-Amino-6-(6-methoxy-3-pyridyl)-2-pyrazinecarbonitrile 4-oxide (6.65 g) was dissolved in DME (133 ml). To the solution was added phosphorus oxychloride (12.6 g) at 25° C. The mixture was stirred at ambient temperature for 2 hours. To the mixture was added water (520 ml). The solution was stirred at 20-25° C. for 15 hours. The precipitated crystals were collected by filtration and dried in vacuo, to give 3-amino-5-chloro-6-(6-methoxy-3-pyridyl)-2-pyrazinecarbonitrile as powder (4.6 g). The filtrate was extracted with EtOAc. The organic solution was washed with brine, dried over MgSO4. Evaporation of solvent in vacuo gave oily residue. The residue was purified by chromatography on silica gel (EtOAc:n-Hexane=1:1, v/v) to give 3-amino-5-chloro-6-(6-methoxy-3-pyridyl)-2-pyrazinecarbonitrile as powder (1.0 g).

reactant | 3-Amino-6-(6-methoxy-3-pyridyl)-2-pyrazinecarbonitrile 4-oxide | 6.65 g | NC=1C(=NC(=C[N+]1[O-])C=1C=NC(=CC1)OC)C#N | C11H9N5O2
reactant | phosphorus oxychloride | 12.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 520 ml | O | H2O
solvent | DME | 133 ml | COCCOC | C4H10O2
product | 3-amino-5-chloro-6-(6-methoxy-3-pyridyl)-2-pyrazinecarbonitrile | 4.6 g | NC=1C(=NC(=C(N1)Cl)C=1C=NC(=CC1)OC)C#N | C11H8ClN5O
